US04874775
N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide
A 4.37 g. portion of 3-(4-chlorophenylaminomethyl)pyridine was dissolved in 20 ml. of dichloromethane, and 4.1 g. of potassium carbonate and 3.8 g. of ethanesulfonyl chloride were added. The mixture was stirred under gentle reflux overnight, and was then allowed to stand for several days at ambient temperature. The mixture was extracted with water, dried over magnesium sulfate and filtered. The residue was taken up in chloroform and purified over silica gel, eluting with chloroform. The product-containing fractions were collected and evaporated under vacuum to obtain 1 g. of the desired product, m.p. 104°-106°.

reactant | 3-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C14H15ClN2O2S
